US06180665B2
(S,S,S)-N-(1-[3-(N6-Benzyloxycarbonyl-N2-mesyllysylamino)-2-carboxypropyl]-1-cyclopentylcarbonyl)tyrosine
Tert-butyl (S,S,S)-N-(1-[3-(N6-benzyloxycarbonyl-N2-mesyllysylamino)-2-(tert-butoxycarbonyl)propyl]-1-cyclopentylcarbonyl)-O4-tert-butyltyrosinate (404 g) was dissolved in dichloromethane (810 ml). Anisole (769 g) was added in one portion and then trifluoroacetic acid (1.158 kg) added dropwise over approximately 10 minutes. On completion of the addition, the reaction was stirred at 35° C. for 6 hours and then stirred at room temperature overnight. Water (1000 ml) was added and three layers formed. The top and bottom layers were combined, dissolved in ethyl acetate (2 l) and the resulting solution washed with brine. The organic phase was mixed with brine, the pH adjusted to 3 and the layers allowed to separate. Three layers formed. The organic phases were separated, taken up in ethyl acetate and extracted with saturated aqueous sodium bicarbonate (1.6 l) solution and brine (0.5 l). The combined aqueous layers were washed with ethyl acetate, then acidified and extracted with ethyl acetate to give an ethyl acetate solution (1.54 l) of the title compound. This solution was either used directly (e.g. see Example 1) or the solvent removed to provide the title compound.

reactant | Tert-butyl (S,S,S)-N-(1-[3-(N6-benzyloxycarbonyl-N2-mesyllysylamino)-2-(tert-butoxycarbonyl)propyl]-1-cyclopentylcarbonyl)-O4-tert-butyltyrosinate | 404 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](NS(=O)(=O)C)C(=O)NC[C@H](CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C46H70N4O11S
reactant | Anisole | 769 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1.158 kg | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 1000 ml | O | H2O
solvent | dichloromethane | 810 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
product | (S,S,S)-N-(1-[3-(N6-Benzyloxycarbonyl-N2-mesyllysylamino)-2-carboxypropyl]-1-cyclopentylcarbonyl)tyrosine | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](NS(=O)(=O)C)C(=O)NC[C@H](CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)O | C34H46N4O11S
